US04267193
Dissolve the N-(2-hydroxyethyl)-2,6-dimethyl-4-(hexafluoro-2-hydroxy-2-propyl)aniline (40.0 g, 0.12 mol) in 300 ml CHCl3. Add a solution of SOCl2 (59.5 g, 0.50) in 100 ml CHCl3. Reflux 16 hours, allow to cool, and dilute with an equal volume of hexane. Filter to give solid, m.p. 190°-196° C. (dec.), N-(2-chloroethyl)-2,6-dimethyl-4-(hexafluoro-2-hydroxy-2-propyl)aniline hydrochloride. The corresponding free base has m.p. 101°-104° C.

reactant | N-(2-hydroxyethyl)-2,6-dimethyl-4-(hexafluoro-2-hydroxy-2-propyl)aniline | 0.12 mol, 40.0 g | OCCNC1=C(C=C(C=C1C)C(C(F)(F)F)(C(F)(F)F)O)C | C13H15F6NO2
reactant | SOCl2 | 59.5 g | O=S(Cl)Cl | Cl2OS
solvent | CHCl3 | 300 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | hexane | CCCCCC | C6H14
product | N-(2-chloroethyl)-2,6-dimethyl-4-(hexafluoro-2-hydroxy-2-propyl)aniline hydrochloride | Cl.ClCCNC1=C(C=C(C=C1C)C(C(F)(F)F)(C(F)(F)F)O)C | InChI=1S/C13H14ClF6NO.ClH/c1-7-5-9(6-8(2)10(7)21-4-3-14)11(22,12(15,16)17)13(18,19)20;/h5-6,21-22H,3-4H2,1-2H3;1H
